### PR TITLE
feat : `toInt_shiftLeft` theorem

### PR DESCRIPTION
**Pull request by mhk119**

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
Nice. This seems self-contained. You can probably mention that this completes the toInt/Nat/Fin family for shiftLeft.

Might be worth to PR to lean proper.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1124,6 +1124,11 @@ theorem not_eq_comm {x y : BitVec w} : ~~~ x = y ↔ x = ~~~ y := by
     BitVec.toNat (x <<< n) = BitVec.toNat x <<< n % 2^v :=
   BitVec.toNat_ofNat _ _
 
+@[simp] theorem toInt_shiftLeft {x : BitVec w} :
+    BitVec.toInt (x <<< n) = Int.bmod (x.toNat <<< n) (2^w) := by
+    rw [toInt_eq_toNat_bmod, toNat_shiftLeft, Nat.shiftLeft_eq]
+    simp
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1131]:
```suggestion
@[simp] theorem toInt_shiftLeft {x : BitVec w} :
    BitVec.toInt (x <<< n) = Int.bmod (x.toNat <<< n) (2^w) := by
  rw [toInt_eq_toNat_bmod, toNat_shiftLeft, Nat.shiftLeft_eq]
  simp

```
